### PR TITLE
[Merged by Bors] - feature(Analysis/Convex/Basic): Convexity and the algebra map

### PR DESCRIPTION
**Pull request by mans0954**
Let `R` and `A` be ordered rings, `A` an `R`-algebra and `R`, `A`, `M` a scalar tower. We provide sufficient conditions for an `R`-convex subset of `M` to be `A`-convex and for an `A`-convex subset of `M` to be `R`-convex.

These are used to show that, when `K` is `RCLike` and `ℝ` `K` `E` is a scalar tower, a set is `K`-convex if and only if it is `ℝ`-convex.

Used in #29258

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
The proof is inspired by `Convex.convex_isRCLikeNormedField` - but I couldn't find a way to deduce `Convex.convex_isRCLikeNormedField` from `convex_of_nonneg_algebraMap`.

**Comment by mans0954** [comment]
c.f. #29075

**Comment by mans0954** [comment]
CC: @Timeroot - any thoughts on this PR please?

File: Mathlib/Analysis/Convex/Basic.lean [hunk 1]
```diff
@@ -308,16 +308,22 @@ end Module
...
 
-variable [ZeroLEOneClass 𝕜] [Module 𝕜 E]
+variable [Module 𝕜 E]
 variable (R : Type*) [Semiring R] [PartialOrder R] [Module R E]
 variable [Module R 𝕜] [IsScalarTower R 𝕜 E]
 
 /-- Lift the convexity of a set up through a scalar tower. -/
-theorem Convex.lift [SMulPosMono R 𝕜] {s : Set E} (hs : Convex 𝕜 s) : Convex R s := by
+theorem Convex.lift_of_smul_of_nonneg_right {s : Set E} (hs : Convex 𝕜 s)
+    (h : ∀ ⦃r : R⦄, 0 ≤ r → 0 ≤ r • (1 : 𝕜)) : Convex R s := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Basic.lean]: Is this meaningfully more general than `SMulPosMono`? I mean, do you have examples where this applies but `SMulPosMono` is not satisfied?

File: Mathlib/Analysis/Convex/Basic.lean [hunk 2]
```diff
@@ -595,3 +601,44 @@ protected theorem starConvex (K : Submodule 𝕜 E) : StarConvex 𝕜 (0 : E) K
...
+
+lemma convex_of_nonneg_algebraMap {s : Set M} (halg : ∀ ⦃r : R⦄, 0 ≤ r → 0 ≤ algebraMap R A r)
+    (hs : Convex A s) : Convex R s := by
+  apply Convex.lift_of_smul_of_nonneg_right R hs
+  intro r hr
+  rw [← Algebra.algebraMap_eq_smul_one]
+  exact halg hr
+
+lemma convex_of_nonneg_surjective_algebraMap [FaithfulSMul R A] {s : Set M}
+    (halg : ∀ ⦃a : A⦄, 0 ≤ a → ∃ (r : R), 0 ≤ r ∧ algebraMap R A r = a) (hs : Convex R s) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Basic.lean]: This condition `halg` can be written as `Set.Ici 0 ⊆ algebraMap R A '' Set.Ici 0`, which seems more readable.

File: Mathlib/Analysis/Convex/Basic.lean [hunk 3]
```diff
@@ -595,3 +601,44 @@ protected theorem starConvex (K : Submodule 𝕜 E) : StarConvex 𝕜 (0 : E) K
...
+
+section CommSemiring
+
+variable {R : Type*} [CommSemiring R]
+variable (A : Type*) [Semiring A] [Algebra R A]
+variable {M : Type*} [AddCommMonoid M] [Module A M] [Module R M] [IsScalarTower R A M]
+variable [PartialOrder R] [PartialOrder A]
+
+lemma convex_of_nonneg_algebraMap {s : Set M} (halg : ∀ ⦃r : R⦄, 0 ≤ r → 0 ≤ algebraMap R A r)
+    (hs : Convex A s) : Convex R s := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Basic.lean]: Again, is this meaningfully more general than `SMulPosMono`? We have [algebraMap_nonneg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Module/Algebra.html#algebraMap_nonneg) which you use below.

File: Mathlib/Analysis/Convex/Basic.lean [hunk 4]
```diff
@@ -595,3 +601,44 @@ protected theorem starConvex (K : Submodule 𝕜 E) : StarConvex 𝕜 (0 : E) K
...
+end CommSemiring
+
+section CommRing
+
+variable {R : Type*} [CommRing R]
+variable {A : Type*} [Ring A] [Algebra R A]
+variable {M : Type*} [AddCommMonoid M] [Module A M] [Module R M] [IsScalarTower R A M]
+variable [PartialOrder R] [PartialOrder A] [IsOrderedRing A] [SMulPosMono R A]
+
+lemma Convex.sMulPosMono_convex {s : Set M} (hs : Convex A s) : Convex R s :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Basic.lean]: How is this different from `Convex.lift`?

**Review by j-loreaux — COMMENTED** [review]
Certainly this seems useful, but I'm a bit unclear about the supposed extra generality.

I would like to switch some statements about Hahn-Banach to use `LocallyConvexSpace 𝕜 E` instead of `LocallyConvexSpace ℝ E` with this.

File: Mathlib/Analysis/Convex/Basic.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Analysis/Convex/Basic.lean]: No - by chance I started working on this PR just before #29075 was merged, so I didn't know about `Convex.lift` at the time. Now that we have `Convex.lift` I don't think we need these other results.

File: Mathlib/Analysis/Convex/Basic.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Analysis/Convex/Basic.lean]: No - see my comment above.

File: Mathlib/Analysis/Convex/Basic.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Analysis/Convex/Basic.lean]: I've removed this now.

**Comment by mans0954** [comment]
> Certainly this seems useful, but I'm a bit unclear about the supposed extra generality.

@j-loreaux it's an artifact of me starting this PR before I was aware of #29075 - I've removed the unnecessary extra generality now.

> I would like to switch some statements about Hahn-Banach to use `LocallyConvexSpace 𝕜 E` instead of `LocallyConvexSpace ℝ E` with this.

You might also be interested in #29342 which sorts out an awkward work-around in the definition of `AbsConvex`.

File: Mathlib/Analysis/Convex/Basic.lean [hunk 5]
```diff
@@ -595,3 +595,25 @@ protected theorem starConvex (K : Submodule 𝕜 E) : StarConvex 𝕜 (0 : E) K
...
 end Submodule
+
+section CommSemiring
+
+variable {R : Type*} [CommSemiring R]
+variable (A : Type*) [Semiring A] [Algebra R A]
+variable {M : Type*} [AddCommMonoid M] [Module A M] [Module R M] [IsScalarTower R A M]
+variable [PartialOrder R] [PartialOrder A]
+
+lemma convex_of_nonneg_surjective_algebraMap [FaithfulSMul R A] {s : Set M}
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Basic.lean:606]: The name of this declaration is a little misleading as `Function.Surjective` does not appear, but I think it's a niche enough result that I'm not going to quibble further.

**Review by j-loreaux — COMMENTED** [review]
bors merge
